* C:\Users\Arjan Blankestijn\Documents\GTT\Projects\bms\Simulations\balancing.asc
V1 N001 0 4.3
Rbal N002 N001 37.5
R_bal_c N003 0 3.3
Rds N002 N003 0.5
.tran 1s
.backanno
.end
